US07442839B2
vi) (5R)-3-[6-({5-[3-(Cyclopentylsulfonyl)phenyl]pentyl}oxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
A solution of (5R)-3-[6-({5-[3-(cyclopentylsulfonyl)phenyl]-4-pentyn-1-yl}oxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (215 mg) in EtOAc (10 ml) and EtOH (10 ml) was hydrogenated over platinum oxide (30 mg). When hydrogen uptake had ceased the mixture was filtered through celite and the solvent was evaporated in vacuo to give the title compound (200 mg). LCMS RT=3.83 min.

reactant | (5R)-3-[6-({5-[3-(cyclopentylsulfonyl)phenyl]-4-pentyn-1-yl}oxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 215 mg | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C#CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C35H45NO7S
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | platinum oxide | 30 mg | [Pt]=O
product | (5R)-3-[6-({5-[3-(Cyclopentylsulfonyl)phenyl]pentyl}oxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 200 mg | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)CCCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C35H49NO7S
